US08471005B2
Into a 8-dram vial, (3-Amino-2-methoxy-phenyl)-(4-methyl-piperazin-1-yl)-methanone (107 mg, 0.430 mmol), Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (88.0 mg, 0.195 mmol), N,N-Diisopropylethylamine (0.0749 mL, 0.430 mmol), and 1-Methoxy-2-propanol (0.70 mL, 7.2 mmol) were added. The reaction mixture was heated at 120° C. for 6 hours. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give N-(2-{2-[2-Methoxy-3-(4-methyl-piperazine-1-carbonyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide a yellow solid (42 mg, 32%). LCMS (E/I+) 550.16 (M+H). NMR 1H (DMSO-d6)-9.79 (bs, 1H), 9.02 (s, 1H), 8.13 (bs, 1H), 8.06 (s, 1H), 7.90-7.96 (m, 1H), 7.45-7.65 (m, 3H), 7.09 (t, 1H, J=7.80 Hz), 7.05 (d, 1H, J=4.63 Hz), 7.00 (d, 1H, J=4.63 Hz), 6.92 (bs, 1H), 2.70-4.50 (m, 20H).

reactant | (3-Amino-2-methoxy-phenyl)-(4-methyl-piperazin-1-yl)-methanone | 0.430 mmol, 107 mg | NC=1C(=C(C=CC1)C(=O)N1CCN(CC1)C)OC | C13H19N3O2
reactant | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.195 mmol, 88.0 mg | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | N,N-Diisopropylethylamine | 0.430 mmol, 0.0749 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 7.2 mmol, 0.70 mL | COCC(C)O | C4H10O2
product | N-(2-{2-[2-Methoxy-3-(4-methyl-piperazine-1-carbonyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenyl)-N-methyl-methanesulfonamide | COC1=C(C=CC=C1C(=O)N1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C27H31N7O4S
